US07101892B2
2-Benzenesulfonyl-5-(4,5-dimethyl-3,6-dihydro-2H-pyridin-1-yl)-2-methylpentan-1-ol
A solution of diisobutylaluminium hydride in toluene (1.0M, 6 ml, 0.6 mmol) was added to a stirred solution of 2-benzenesulfonyl-5-(4,5-dimethyl-3,6-dihydro-2H-pyridin-1-yl)-2-methyl-pentanoic acid methyl ester hydrochloride (60 mg, 0.15 mmol) in dichloromethane at 5° C. The mixture was stirred for 30 min., diluted with dichloromethane (15 ml) and quenched with water (3 drops). The resulting mixture was stirred for 30 min. and solid Na2SO4 was added. The mixture was filtered through a pad of Celite and concentrated. The residue was purified on silica gel (dichloromethane:methanol) to give the title product.

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 0.6 mmol, 1.0M, 6 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-benzenesulfonyl-5-(4,5-dimethyl-3,6-dihydro-2H-pyridin-1-yl)-2-methyl-pentanoic acid methyl ester hydrochloride | 0.15 mmol, 60 mg | Cl.COC(C(CCCN1CCC(=C(C1)C)C)(C)S(=O)(=O)C1=CC=CC=C1)=O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-Benzenesulfonyl-5-(4,5-dimethyl-3,6-dihydro-2H-pyridin-1-yl)-2-methylpentan-1-ol | C1(=CC=CC=C1)S(=O)(=O)C(CO)(CCCN1CCC(=C(C1)C)C)C | C19H29NO3S
